US08067448B2
2-Chloro-4-((1R,2R)-1-(5-(4-cyanophenyl)-1,3,4-oxadiazol-2-yl)-2-hydroxypropylamino)-benzonitrile
To a pre-cooled (−55° C.) solution of 4-((1R,2R)-2-(tert-butyldimethylsilyloxy)-1-(5-(4-cyanophenyl)-1,3,4-oxadiazol-2-yl)propylamino)-2-chlorobenzonitrile (860 mg, 1.74 mmol) in THF (100 mL) was added TBAF (2.09 mL, 2.09 mmol, 1 M solution in THF) over 10 min. Upon complete addition the reaction mixture was allowed to warm to 0° C. over 1 h, then stirred at 0° C. for a further 30 min and quenched with sat. aq. NH4Cl (100 mL). The resulting mixture was partitioned between H2O (50 mL) and EtOAc (200 mL). The aqueous layer was extracted with EtOAc (150 mL). The combined organic extracts were dried (Na2SO4), filtered and concentrated under reduced pressure to provide a yellow oil, which was purified by flash chromatography over silica gel (20-80% EtOAc in hexanes) to provided the title compound as a colourless amorphous solid (660 mg, 100%): 1H NMR (400 MHz, acetone-d6, δ in ppm) 8.20 (dm, J=8.8 Hz, 2H), 8.00 (dm, J=8.8 Hz, 2H), 7.53 (d, J=8.6 Hz, 1H), 7.06 (d, J=2.4 Hz, 1H), 6.92 (dd, J=2.4, 8.6 Hz, 1H), 6.79 (d, J=8.8 Hz, 1H), 5.08 (dd, J=5.7, 8.8 Hz, 1H), 4.42 (pentet, J=6.1 Hz, 1H), 1.41 (d, J=6.5 Hz, 3H).

reactant | 4-((1R,2R)-2-(tert-butyldimethylsilyloxy)-1-(5-(4-cyanophenyl)-1,3,4-oxadiazol-2-yl)propylamino)-2-chlorobenzonitrile | 1.74 mmol, 860 mg | [Si](C)(C)(C(C)(C)C)O[C@@H]([C@H](C=1OC(=NN1)C1=CC=C(C=C1)C#N)NC1=CC(=C(C#N)C=C1)Cl)C | C25H28ClN5O2Si
reactant | TBAF | 2.09 mmol, 1 M, 2.09 mL | CCCC[N+](CCCC)(CCCC)CCCC.[F-]
solvent | THF | 100 mL | C1CCOC1 | C4H8O
product | 2-Chloro-4-((1R,2R)-1-(5-(4-cyanophenyl)-1,3,4-oxadiazol-2-yl)-2-hydroxypropylamino)-benzonitrile | 660 mg, 100% | ClC1=C(C#N)C=CC(=C1)N[C@H]([C@@H](C)O)C=1OC(=NN1)C1=CC=C(C=C1)C#N | C19H14ClN5O2
